US07402608B2
A suspension of 3-Amino-5-bromo-thiophene-2-carboxylic acid methyl ester (1.03 g, 4.38 mmol) in dry THF (1.1 ml) was treated with 1,4-cyclohexanedione monoethylene ketal (684 mg, 4.38 mmol), followed by dibutyltin dichloride (133 mg, 0.44 mmol). After 5 min, phenyl silane (877 μL, 4.8 mmol) was added and the reaction mixture was stirred at room temperature for 2 days when a clear solution resulted. The solution was then concentrated and the residue purified by silica gel column chromatography using EtOAc:hexanes as eluent to furnished 5-Bromo-3-(1,4-dioxa-spiro[4.5]dec-8-ylamino)-thiophene-2-carboxylic acid methyl ester (1.11 g, 68% yield). 1H NMR (CDCl3, 400 MHz): 6.90 (br s, 1H), 6.65 (s, 1H), 3.95 (s, 4H), 3.78 (s, 3H), 3.35 (m, 1H), 2.00 (m, 2H), 1.80 (m, 2H), 1.65 (m, 4H).

reactant | 3-Amino-5-bromo-thiophene-2-carboxylic acid methyl ester | 4.38 mmol, 1.03 g | COC(=O)C=1SC(=CC1N)Br | C6H6BrNO2S
reactant | 1,4-cyclohexanedione monoethylene ketal | 4.38 mmol, 684 mg | C1COC2(CCC(CC2)=O)O1 | C8H12O3
reactant | dibutyltin dichloride | 0.44 mmol, 133 mg | C(CCC)[Sn](CCCC)(Cl)Cl
reactant | phenyl silane | 4.8 mmol, 877 μL | C1(=CC=CC=C1)[SiH3] | C6H8Si
solvent | THF | 1.1 ml | C1CCOC1 | C4H8O
product | 5-Bromo-3-(1,4-dioxa-spiro[4.5]dec-8-ylamino)-thiophene-2-carboxylic acid methyl ester | 1.11 g, 68% yield | COC(=O)C=1SC(=CC1NC1CCC2(OCCO2)CC1)Br | C14H18BrNO4S
